US05559266
i) 1-Chloro-3-phenylpropyl phenyl carbonate
Phenyl chloroformate (0.80 g, 5.1 mmol) and 3-phenyl-propionaldehyde (0.96 g, 7.2 mmol) were dissolved in 1,2-dichloroethane (5 ml) and pyridine (0.020 g, 0.25 mmol) was added dropwise to the stirred solution. Stirred at 80° C. for 2 days. Washed with water (10 ml), dried (MgSO4) and concentrated. Purified by flash chromatography (Silikagel 60, petroleum ether/ethyl acetate 95:5). Yield: 0.45 g 1H-NMR (CDCl3): delta=2.43 (CH2CH); 2.87 (CH2CH2CH); 6.34 (CH); 7.19-7.41 ppm (phenyl).

reactant | Phenyl chloroformate | 5.1 mmol, 0.80 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-phenyl-propionaldehyde | 7.2 mmol, 0.96 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | pyridine | 0.25 mmol, 0.020 g | N1=CC=CC=C1 | C5H5N
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-3-phenylpropyl phenyl carbonate | C(OC(CCC1=CC=CC=C1)Cl)(OC1=CC=CC=C1)=O | C16H15ClO3
